2186-03-25 07:14:00 Physician Resident Progress Note
Chief Complaint: UGIB
   24 Hour Events:
   - Underwent EGD w/ large, necrotic duodenal ulcer seen w/ scant
   bleeding.  No intervention undertaken given tenuous appearence
   - Transfused 5U PRBC, with Hct rise from 13 to 30.  Has been holding
   stable
   Allergies:
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2186-3-24**] 12:25 PM
   Midazolam (Versed) - [**2186-3-24**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO
   Respiratory: No(t) Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Flowsheet Data as of  [**2186-3-25**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.4
   HR: 77 (66 - 85) bpm
   BP: 93/52(62) {75/45(52) - 109/64(80)} mmHg
   RR: 16 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,802 mL
                                                                    178 mL
   PO:
             TF:
   IVF:
                                                                  2,769 mL
                                                                    178 mL
   Blood products:
                                                                  1,033 mL
   Total out:
                                                                  2,425 mL
                                                                    505 mL
   Urine:
                                                                  1,925 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,377 mL
                                                                   -327 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   cacectic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Not assessed), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Tender: in all 4 quadrents, R > L, U > L, Some degree of
   voluntary gaurdind.  Hypoactive BS
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   189 K/uL
   9.9 g/dL
   83 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.4 mEq/L
   32 mg/dL
   108 mEq/L
   139 mEq/L
   29.3 %
   5.2 K/uL
        [image002.jpg]
                             [**2186-3-24**]  08:31 AM
                             [**2186-3-24**]  03:36 PM
                             [**2186-3-24**]  06:40 PM
                             [**2186-3-25**]  12:09 AM
                             [**2186-3-25**]  04:43 AM
   WBC
   7.0
   5.2
   Hct
   23.0
   27.5
   28.7
   29.8
   29.3
   Plt
   209
   189
   Cr
   0.9
   0.9
   TropT
   <0.01
   Glucose
   111
   83
   Other labs: PT / PTT / INR:12.0/26.6/1.0, CK / CKMB /
   Troponin-T:63/3/<0.01, ALT / AST:18/14, Alk Phos / T Bili:56/0.5,
   Amylase / Lipase:72/30, Differential-Neuts:83.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.6 %, Eos:0.4 %, Albumin:2.3 g/dL, LDH:123 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Imaging: INDINGS:  In comparison with the study of [**9-10**], there again is
   evidence of
   old healed apical granulomatous disease as well as chronic obstructive
   pulmonary disease.  No acute pneumonia appreciated at this time.
   A single cratered 2cm ulcer was found in the proximal bulb. The ulcer
   bed appeared necrotic with pigmented material suggestive of recent
   bleeding. There was thick dark material adherent to the ulcer (food vs.
   old blood) which could not be fully cleared. Because it was difficult
   to get a clear view of the ulcer base and vessel, we decided against
   intervening at present.
   Microbiology: [**2186-3-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2186-3-24**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
   67 year old woman with chronic pancreatitis and severe acute blood less
   anemia, likely from an upper source given her description of melena.
   .
   Plan:
   ## Acute blood loss anemia due to GI bleed:  Prior EGD from [**2182**]
   revealed gastritis, confirmed by biopsy.  EGD showed necrotic duodenal
   ulcer with only a slow ooze.  No intervention taken given tenuous
   appearance.  Patient received 5 U PRBCs.  Hct of 29 and stable.
   - s/p 5U PRBCs, follow q8h hct.
   - NPO until 4pm, - clear liquid diet over weekend is ok if pt remains
   stable.
   - Will plan for re-scope on Monday in endoscopy unit after futher
   stabilization
   - a-line for BP monitoring given that her thin body habitus is likely
   causing NIBP to underestimate her actual BP
   IV PPI 80mg bolus then 8mg/hr x 72 hours.
   - Active T&C, 4 units crossed
   - q 4 hour hematocrits
   - has 4 large bore PIVs currently
   - hold aspirin
   #Fever.  Fever last night.  No elevation of WBC, no infectious sx.
   Follow up blood cx.
   - Given possibility of microperforation in the setting of fever, will
   get CT scan to evaluate.
   .
   ## Chronic pancreatitis:
   - prn morphine for pain; NPO for upper GI bleed
   .
   ## Anorexia:
   - hold PO psych meds for now; may resume p EGD
   .
   ## FEN: IV NS boluses to keep MAP >60; NPO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2186-3-24**] 08:00 AM
   20 Gauge - [**2186-3-24**] 08:07 AM
   Arterial Line - [**2186-3-24**] 09:07 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI IV
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2186-03-25 10:22:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   UGI bleed, necrotic duodenal ulcer
   24 Hour Events:
 EKG - At [**2186-3-24**] 12:44 PM
 ENDOSCOPY - At [**2186-3-24**] 12:44 PM - scant bleeding with necrotic
   ulcer in duod
 BLOOD CULTURED - At [**2186-3-24**] 08:50 PM
 BLOOD CULTURED - At [**2186-3-24**] 08:50 PM
 ARTERIAL LINE - START [**2186-3-24**] 09:07 PM
   Transfused 5 units PRBC. Temp 101 prior to one of her transfusions,
   responded to Tylenol. SBPs stable in 90-100s.
   History obtained from Patient
   Allergies:
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2186-3-24**] 12:25 PM
   Midazolam (Versed) - [**2186-3-24**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: Abdominal pain
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Neurologic: No(t) Numbness / tingling
   Flowsheet Data as of  [**2186-3-25**] 10:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.3
   HR: 75 (68 - 85) bpm
   BP: 88/54(63) {80/48(56) - 109/64(80)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,802 mL
                                                                    322 mL
   PO:
             TF:
   IVF:
                                                                  2,769 mL
                                                                    322 mL
   Blood products:
                                                                  1,033 mL
   Total out:
                                                                  2,425 mL
                                                                    930 mL
   Urine:
                                                                  1,925 mL
                                                                    930 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,377 mL
                                                                   -608 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: No(t) Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic), 2/6 SEM
   flow murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Bowel sounds present, No(t) Distended, Tender: to light
   palpation, not acute abdomen, not acute abdomen, No rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   189 K/uL
   83 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.4 mEq/L
   32 mg/dL
   108 mEq/L
   139 mEq/L
   29.3 %
   5.2 K/uL
        [image002.jpg]
                             [**2186-3-24**]  08:31 AM
                             [**2186-3-24**]  03:36 PM
                             [**2186-3-24**]  06:40 PM
                             [**2186-3-25**]  12:09 AM
                             [**2186-3-25**]  04:43 AM
   WBC
   7.0
   5.2
   Hct
   23.0
   27.5
   28.7
   29.8
   29.3
   Plt
   209
   189
   Cr
   0.9
   0.9
   TropT
   <0.01
   Glucose
   111
   83
   Other labs: PT / PTT / INR:12.0/26.6/1.0, CK / CKMB /
   Troponin-T:63/3/<0.01, ALT / AST:18/14, Alk Phos / T Bili:56/0.5,
   Amylase / Lipase:72/30, Differential-Neuts:83.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.6 %, Eos:0.4 %, Albumin:2.3 g/dL, LDH:123 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.3 mg/dL
   Fluid analysis / Other labs: HCT 13 at OSH, to 23 after 3 units, now at
   29.3 after additional 2 units
   Microbiology: No growth to date
   Assessment and Plan
 PEPTIC ULCER DISEASE (PUD)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 PANCREATITIS, CHRONIC s/p Puestow procedure in [**2182**]
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
   67 yo F , h/o chronic pancreatitis, anorexia and bulimia gastritis
   presents with (likely subacute) upper GI bleed
   # UGIB
   s/p 5 U PRBC, f/u Hct q8hrs
   IV PPI x 72 hrs total per GI.
   Keep Hct at approx 30. No indication for transfusion at this time
   GI aware with plan for repeat EGD tomorrow if stable
   NPO
   Access--1 16 gauge IV and 3- 20 gauge PIVs.
   hemodynamically stable.
   Start clear liquid diet tonight if stable
   # Chronic Pancreatitis
 s/p Puestow, pain is chronic and stable per
   patient but concerning. No acute abdomen on exam.
    Prn morphine
   enzyme replacement once eating
   # Low grade fever and abdominal pain - will do CT [**Last Name (un) 499**]/pelvis today.
   #psych/depression/anorexia
   Resume home regimen when taking PO
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2186-3-24**] 08:00 AM
   20 Gauge - [**2186-3-24**] 08:07 AM
   Arterial Line - [**2186-3-24**] 09:07 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :
   Total time spent: 38 minutes

2186-03-26 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 500cc bolus [**2-18**] hypotension
   - q8h HCT - stable
   - low grade temp in am, abd CT to r/o perf, negative
   - diet advanced to clears
   Pt still c/o [**8-27**] epigastric pain (unchanged from baseline) no
   nausea/vomiting. Tolerated clears well overnight.
   Allergies:
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2186-3-25**] 09:08 PM
   Other medications:
   Flowsheet Data as of  [**2186-3-26**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 67 (66 - 79) bpm
   BP: 93/58(67) {88/50(59) - 100/58(68)} mmHg
   RR: 14 (13 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,388 mL
                                                                    239 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  2,268 mL
                                                                    239 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    580 mL
   Urine:
                                                                  2,270 mL
                                                                    580 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    118 mL
                                                                   -341 mL
   Physical Examination
   GEN: NAD, comfortable
   CV: RRR no m/r/g
   RESP: CTAB no w/r
   ABD: TTP over epigastric some voluntary guarding, NABS, lower abd
   soft/NT
   EXTR: no c/c/e
   Labs / Radiology
   170 K/uL
   10.1 g/dL
   81 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   21 mg/dL
   106 mEq/L
   136 mEq/L
   29.5 %
   3.8 K/uL
        [image002.jpg]
                             [**2186-3-24**]  08:31 AM
                             [**2186-3-24**]  03:36 PM
                             [**2186-3-24**]  06:40 PM
                             [**2186-3-25**]  12:09 AM
                             [**2186-3-25**]  04:43 AM
                             [**2186-3-25**]  11:06 AM
                             [**2186-3-25**]  08:46 PM
                             [**2186-3-26**]  04:55 AM
   WBC
   7.0
   5.2
   3.8
   Hct
   23.0
   27.5
   28.7
   29.8
   29.3
   29.4
   28.7
   29.5
   Plt
   [**Telephone/Fax (3) 1472**]
   Cr
   0.9
   0.9
   0.9
   TropT
   <0.01
   Glucose
   111
   83
   81
   Other labs: PT / PTT / INR:11.7/27.6/1.0, CK / CKMB /
   Troponin-T:63/3/<0.01, ALT / AST:18/14, Alk Phos / T Bili:56/0.5,
   Amylase / Lipase:72/30, Differential-Neuts:83.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.6 %, Eos:0.4 %, Albumin:2.3 g/dL, LDH:123 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Imaging: CT abd [**3-25**]
   IMPRESSION:
   1.  No pneumoperitoneum or other signs of bowel perforation is noted.
   2.  Unchanged chronic pancreatitis with moderate pancreatic duct
   dilatation.
   3.  Unchanged multiple hypodense kidney lesions and bilateral kidny
   scarring.
   4.  Moderate ascites. The etiology is unclear.
   5.  Unchanged moderate right and small left pleural effusion.
   6. Unchanged moderate extrahepatic and mild intrahepatic bile duct
   dilatation
   since MR of abdomen performed in [**2182-1-17**].
   7.  Grade 2 retrolisthesis of L4 over L5 with a small disc bulge at the
   same
   level.
   Microbiology: Blood Cx pending
   Assessment and Plan
   67 year old F with PMHx of chronic pancreatitis p/w 3 wks of melena,
   severe hct drop & necrotic duodenal ulcer seen on EGD.
   #GI bleed:  Prior EGD from [**2182**] revealed gastritis, confirmed by
   biopsy.  EGD on [**3-24**] showed necrotic duodenal ulcer with only a slow
   ooze.  No intervention taken given tenuous appearance.  Patient
   received 5 U PRBCs.  Hct of 29.5 and stable.
   - s/p 5u pRBCs, f/u [**Hospital1 **] hcts
   - advance full liquid diet as tolerated
   - f/u H. Pylori antibody
   - NPO at MN for scope on Monday in endoscopy unit
   - a-line for BP monitoring
   - IV PPI gtt at 8mg/hr x 72 hours.
   - Active T&C, 4 units crossed
   - has 4 large bore PIVs currently
   - holding aspirin
   - guaic stools
   #Fever: Pt had low grade fever of unknown etiology last night.  Blood &
   Urine cultures sent, NGTD. No elevation of WBC, no localizing
   infectious symptoms.  CT Abd showed no e/o perforation or new
   pathology, chronic dz stable
   - f/u blood & urine Cx
   .
   ## Chronic pancreatitis:  CT scan showed stable changes, no acute
   pancreatitis
   - starting Oxycontin [**Hospital1 **] with prn morphine for breakthrough; advancing
   clears for upper GI bleed
   - consider outpt chronic pain clinic referral
   .
   ## Psych: will review home med regimen and restart now that pt is
   tolerating po.
   .
   ## FEN: advancing full liquid diet
   - IV NS boluses to keep MAP >60
   ICU Care
   Nutrition: full liquids as tolerated
   Glycemic Control: none
   Lines:
   20 Gauge - [**2186-3-24**] 08:07 AM
   Arterial Line - [**2186-3-24**] 09:07 PM
   16 Gauge - [**2186-3-25**] 12:13 PM
   Prophylaxis:  DVT:  Pneumo boots
   Stress ulcer: Protonix gtt
   Code status: Full code
   Disposition: ICU for now

2186-03-26 12:38:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   67 yo F , h/o chronic pancreatitis, anorexia and bulimia gastritis
   presents with upper GI bleed
   24 Hour Events:
   q8h hematocrits stable
   CT [**Last Name (un) 499**] - no acute issues
   Allergies:
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2186-3-26**] 09:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain, similar to chronic pain
   Flowsheet Data as of  [**2186-3-26**] 12:38 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 71 (66 - 79) bpm
   BP: 86/46(62) {71/41(54) - 111/60(77)} mmHg
   RR: 15 (13 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,388 mL
                                                                    497 mL
   PO:
                                                                    120 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,268 mL
                                                                    257 mL
   Blood products:
   Total out:
                                                                  2,270 mL
                                                                    900 mL
   Urine:
                                                                  2,270 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    118 mL
                                                                   -403 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///27/
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   170 K/uL
   81 mg/dL
   0.9 mg/dL
   27 mEq/L
   3.8 mEq/L
   21 mg/dL
   106 mEq/L
   136 mEq/L
   29.5 %
   3.8 K/uL
        [image002.jpg]
                             [**2186-3-24**]  08:31 AM
                             [**2186-3-24**]  03:36 PM
                             [**2186-3-24**]  06:40 PM
                             [**2186-3-25**]  12:09 AM
                             [**2186-3-25**]  04:43 AM
                             [**2186-3-25**]  11:06 AM
                             [**2186-3-25**]  08:46 PM
                             [**2186-3-26**]  04:55 AM
   WBC
   7.0
   5.2
   3.8
   Hct
   23.0
   27.5
   28.7
   29.8
   29.3
   29.4
   28.7
   29.5
   Plt
   [**Telephone/Fax (3) 1472**]
   Cr
   0.9
   0.9
   0.9
   TropT
   <0.01
   Glucose
   111
   83
   81
   Other labs: PT / PTT / INR:11.7/27.6/1.0, CK / CKMB /
   Troponin-T:63/3/<0.01, ALT / AST:18/14, Alk Phos / T Bili:56/0.5,
   Amylase / Lipase:72/30, Differential-Neuts:83.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.6 %, Eos:0.4 %, Albumin:2.3 g/dL, LDH:123 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Imaging: CT [**Last Name (un) 499**] - unchanged pancreatitis, no perforation
   Assessment and Plan
   67 yo F , h/o chronic pancreatitis, anorexia and bulimia gastritis
   presents with (likely subacute) upper GI bleed
   # UGIB
   s/p 5 U PRBC, f/u Hcts stable now. Recheck Hct q12h for now. IV PPI x
   72 hrs per GI.
   Keep Hct at approx 30. No indication for transfusion at this time. GI
   plans for repeat EGD tomorrow if stable
   Tolerating clear liquids - advance to full liquids
   Access--1 16 gauge IV and 3- 20 gauge PIVs.
   hemodynamically stable.
   # Chronic Pancreatitis
 s/p Puestow, pain is chronic and stable per
   patient. No acute abdomen on exam and CT shows nothing acute.
    Prn morphine but try to minimize as much as possible. Enzyme
   replacement to be restarted.
   #psych/depression/anorexia
 Resume home regimen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-24**] 08:07 AM
   Arterial Line - [**2186-3-24**] 09:07 PM
   16 Gauge - [**2186-3-25**] 12:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments: Out of bed if possible.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :
   Total time spent: 32 minutes
   Patient is critically ill

2186-03-27 07:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2186-3-26**] 09:00 AM
 URINE CULTURE - At [**2186-3-27**] 06:18 AM
 BLOOD CULTURED - At [**2186-3-27**] 06:49 AM
 BLOOD CULTURED - At [**2186-3-27**] 06:49 AM
   - tolerated full liquid diet, was NPO for EGD
   - started oxycontin 10mg [**Hospital1 **] & other home meds
   - BP dropped overnight, gave a total of 2.5L of boluses, MAPs marginal
   at 60
   - UOP dropped this am, gave 1L LR, UOP increased, repeated cultures &
   CXR
   - hct essentially stable, trending down from 28.5 to 26.2 with 2L IVF
   Pt c/o some increased cough this am, no SOB, no CP, abd pain at
   baseline.
   Allergies:
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2186-3-26**] 09:00 AM
   Other medications:
   Flowsheet Data as of  [**2186-3-27**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 62 (56 - 72) bpm
   BP: 87/54(61) {78/26(47) - 99/57(67)} mmHg
   RR: 15 (11 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,984 mL
                                                                  2,685 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  2,624 mL
                                                                  2,685 mL
   Blood products:
   Total out:
                                                                  2,488 mL
                                                                    755 mL
   Urine:
                                                                  2,488 mL
                                                                    755 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    496 mL
                                                                  1,930 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   GEN: NAD, comfortable, warm
   CV: RRR no mr/g
   RESP: rhonchi noted at RLL base, coughing during exam, no w/r
   ABD: BS present, TTP over epigastrium, ND
   EXTR: warm, +DP/PT pulses
   Labs / Radiology
   186 K/uL
   9.3 g/dL
   92 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   15 mg/dL
   111 mEq/L
   141 mEq/L
   27.1 %
   3.5 K/uL
        [image002.jpg]
                             [**2186-3-24**]  03:36 PM
                             [**2186-3-24**]  06:40 PM
                             [**2186-3-25**]  12:09 AM
                             [**2186-3-25**]  04:43 AM
                             [**2186-3-25**]  11:06 AM
                             [**2186-3-25**]  08:46 PM
                             [**2186-3-26**]  04:55 AM
                             [**2186-3-26**]  04:10 PM
                             [**2186-3-27**]  01:30 AM
                             [**2186-3-27**]  04:44 AM
   WBC
   5.2
   3.8
   3.8
   3.5
   Hct
   27.5
   28.7
   29.8
   29.3
   29.4
   28.7
   29.5
   28.5
   26.2
   27.1
   Plt
   189
   170
   232
   186
   Cr
   0.9
   0.9
   0.8
   Glucose
   83
   81
   92
   Other labs: PT / PTT / INR:11.7/27.6/1.0, CK / CKMB /
   Troponin-T:63/3/<0.01, ALT / AST:18/14, Alk Phos / T Bili:56/0.5,
   Amylase / Lipase:72/30, Differential-Neuts:83.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.6 %, Eos:0.4 %, Albumin:2.3 g/dL, LDH:123 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Imaging: CXR
   Compared to the previous studies again demonstrated bilateral predomina
   ntly
   central bronchiectasis involving mostly the lower lobes but also demons
   trated
   in the perihilar areas of the upper lungs.  There is a new left retroca
   rdiac
   opacity with obscuration of the diaphragm which may represent atelectas
   is or a
   combination of an atelectasis and infectious process.  There is also [**Hospital1 **]
   lateral
   small pleural effusion most likely new compared to the previous studies
   .
   There is no evidence of congestive heart failure.
   IMPRESSION:
   New left lower lobe retrocardiac opacity might be a combination of atel
   ectasis
   and pneumonia.  Small new bilateral pleural effusion
   Microbiology: Blood Cx from [**3-24**] NGTD
   Urine CX NGTD
   Sputum Cx pending
   Assessment and Plan
   67 year old F with PMHx of chronic pancreatitis p/w 3 wks of melena,
   severe hct drop & necrotic duodenal ulcer seen on EGD, had some
   hypotension overnight that responded to IV boluses.
   #GI bleed:  Pt presented with melena, acute hct drop & EGD from [**3-24**]
   showed necrotic duodenal ulcer with only a slow ooze.  No intervention
   taken given tenuous appearance.  Patient received 5 U PRBCs.  Hct has
   been essentially stable since transfusion.  Tolerated full liquids, adv
   diet per GI.
   - f/u [**Hospital1 **] hcts
   - f/u H. Pylori antibody- still pending
   - a-line for BP monitoring, will need to d/c if called out to floor
   - IV PPI gtt, transition to PPI [**Hospital1 **] today
   - Active T&C, 4 units crossed
   - has 4 large bore PIVs currently
   - holding aspirin
   - f/u GI recs
   # Hypotension: Pt with baseline low BPs & started on new narcotic
   regimen yesterday. BP dipped this am with MAPS in 55-60 range,
   responsive to aggressive IVF.  Pt was mentating well, making urine &
   showed e/o good distal perfusion despite MAPs in 55-60 range.
   Differential includes sepsis vs hypovolemia vs cardiogenic.  Will f/u
   cultures to rule out sepsis In setting of recent low grade fevers,
   however, WBC not elevated and pt afebrile.  Pt may have been volume
   depleted as UOP responded to IV boluses.  CXR shows volume overload vs
   possible infiltrate. Hct essentially stable, BP improved today but pt
   c/o worsened cough this am, started on 2L NC overnight after receiving
   aggressive IVF. CXR findings most likely due to volume.
   - monitor in ICU this morning, consider transfer to floor later today
   as suspect BP close to baseline.
   - f/u blood, urine & sputum Cx
   - CIS & repeat CXR PA & Lateral if increased cough/sputum production
   .
   ## Chronic pancreatitis:  CT scan showed stable changes, no acute
   pancreatitis
   - starting Oxycontin [**Hospital1 **] with prn morphine for breakthrough
   - restarted Creon 2 tabs TID AC
   - consider outpt chronic pain clinic referral
   .
   ## Psych: continue home regimen of thioridazine (4pm), fluoxetine,
   trazodone
   .
   ## FEN: full liquid as tolerated, adv per GI
   - IVF boluses prn
   ICU Care
   Nutrition: full liquids as tolerated, adv per GI
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2186-3-24**] 08:07 AM
   Arterial Line - [**2186-3-24**] 09:07 PM
   16 Gauge - [**2186-3-25**] 12:13 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI gtt, transition to PPI [**Hospital1 **] today
   Code status: Full code
   Disposition: possibly out to floor later today

2186-03-27 10:39:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Blood and urine cultures sent for hypotension. Bolused IVF 2.5 L
   MAPs in 60s. Mentating at all times. Hcts stable with small drop due to
   hydration.
   Allergies:
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain
   Flowsheet Data as of  [**2186-3-27**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.3
C (97.3
   HR: 67 (56 - 73) bpm
   BP: 98/59(68) {78/26(47) - 99/59(68)} mmHg
   RR: 18 (11 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,984 mL
                                                                  2,912 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  2,624 mL
                                                                  2,912 mL
   Blood products:
   Total out:
                                                                  2,488 mL
                                                                  1,043 mL
   Urine:
                                                                  2,488 mL
                                                                  1,043 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    496 mL
                                                                  1,869 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   end inspiratory at bases, No(t) Wheezes : , No(t) Rhonchorous: )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Mild tenderness
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.3 g/dL
   186 K/uL
   92 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   15 mg/dL
   111 mEq/L
   141 mEq/L
   27.1 %
   3.5 K/uL
        [image002.jpg]
                             [**2186-3-24**]  03:36 PM
                             [**2186-3-24**]  06:40 PM
                             [**2186-3-25**]  12:09 AM
                             [**2186-3-25**]  04:43 AM
                             [**2186-3-25**]  11:06 AM
                             [**2186-3-25**]  08:46 PM
                             [**2186-3-26**]  04:55 AM
                             [**2186-3-26**]  04:10 PM
                             [**2186-3-27**]  01:30 AM
                             [**2186-3-27**]  04:44 AM
   WBC
   5.2
   3.8
   3.8
   3.5
   Hct
   27.5
   28.7
   29.8
   29.3
   29.4
   28.7
   29.5
   28.5
   26.2
   27.1
   Plt
   189
   170
   232
   186
   Cr
   0.9
   0.9
   0.8
   Glucose
   83
   81
   92
   Other labs: PT / PTT / INR:11.7/27.6/1.0, CK / CKMB /
   Troponin-T:63/3/<0.01, ALT / AST:18/14, Alk Phos / T Bili:56/0.5,
   Amylase / Lipase:72/30, Differential-Neuts:83.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.6 %, Eos:0.4 %, Albumin:2.3 g/dL, LDH:123 IU/L,
   Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Imaging: Mild right hilar fullness but smaller lung volumes, could be
   technique
   Microbiology: Urine culture neg
   H Pylori pending
   Assessment and Plan
   67 yo F , h/o chronic pancreatitis, anorexia and bulimia gastritis
   presents with (likely subacute) upper GI bleed
   # UGIB
   s/p 5 U PRBC, f/u Hcts are stable now. Recheck Hct q12h for now.
   Received IV PPI drip x 72 hrs, will change to intermittent IV.
   Keep Hct at approx 30. No indication for transfusion at this time. GI
   plans for repeat EGD.
   Tolerating full liquids, will advance per GI
   Access--1 16 gauge IV and 3- 20 gauge PIVs.
   # Chronic Pancreatitis
 s/p Puestow, pain is chronic and stable per
   patient. No acute abdomen on exam and CT shows nothing acute.
    Prn morphine but try to minimize as much as possible. Enzyme
   replacement to be restarted.
   #psych/depression/anorexia
 Resume home regimen
   # Hypotension - appeared to have been volume depleted, responded to IVF
   with increased BP and u/o
   Stable for transfer to the floor if Hct remains stable through day.
   Given hypotension last night, will watch today.
   ICU Care
   Nutrition:
   Comments: PPI drip completed
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2186-3-24**] 08:07 AM
   Arterial Line - [**2186-3-24**] 09:07 PM
   16 Gauge - [**2186-3-25**] 12:13 PM
   Prophylaxis:
   DVT: Boots, Stress ulcer: PPI, VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill

2186-03-28 06:52:00 Physician Resident Progress Note
Chief Complaint: GI bleed
   24 Hour Events:
   -- Hct stable at 27
   -- UA c/w UTI, started on 7d course of Cipro, Urince Cx pending
   -- Diet advanced to regular, tolerating well
   -- Per GI, will rescope once called out
   -- SBP of 78 overnight, returned to 90s w/ stimulation
   Allergies:
   Compazine (Injection) (Prochlorperazine Edisylate)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-3-27**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Pain: [**9-27**] Worst
   Pain location: abdomen
   Flowsheet Data as of  [**2186-3-28**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.5
C (97.7
   HR: 65 (61 - 93) bpm
   BP: 97/60(70) {83/51(43) - 102/61(71)} mmHg
   RR: 17 (13 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,147 mL
                                                                     67 mL
   PO:
             TF:
   IVF:
                                                                  3,147 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                  2,523 mL
                                                                    550 mL
   Urine:
                                                                  2,523 mL
                                                                    550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    624 mL
                                                                   -483 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender:
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   218 K/uL
   9.4 g/dL
   95 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   10 mg/dL
   105 mEq/L
   136 mEq/L
   27.2 %
   5.3 K/uL
        [image002.jpg]
                             [**2186-3-25**]  12:09 AM
                             [**2186-3-25**]  04:43 AM
                             [**2186-3-25**]  11:06 AM
                             [**2186-3-25**]  08:46 PM
                             [**2186-3-26**]  04:55 AM
                             [**2186-3-26**]  04:10 PM
                             [**2186-3-27**]  01:30 AM
                             [**2186-3-27**]  04:44 AM
                             [**2186-3-27**]  03:43 PM
                             [**2186-3-28**]  04:27 AM
   WBC
   5.2
   3.8
   3.8
   3.5
   5.3
   Hct
   29.8
   29.3
   29.4
   28.7
   29.5
   28.5
   26.2
   27.1
   27.3
   27.2
   Plt
   189
   170
   232
   186
   218
   Cr
   0.9
   0.9
   0.8
   0.7
   Glucose
   83
   81
   92
   95
   Other labs: PT / PTT / INR:11.7/27.6/1.0, CK / CKMB /
   Troponin-T:63/3/<0.01, ALT / AST:18/14, Alk Phos / T Bili:56/0.5,
   Amylase / Lipase:72/30, Differential-Neuts:83.2 %, Band:0.0 %,
   Lymph:11.6 %, Mono:4.6 %, Eos:0.4 %, Albumin:2.3 g/dL, LDH:123 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   67 year old F with PMHx of chronic pancreatitis p/w 3 wks of melena,
   severe hct drop & necrotic duodenal ulcer seen on EGD, had some
   hypotension overnight that responded to IV boluses.
   #GI bleed:  Pt presented with melena, acute hct drop & EGD from [**3-24**]
   showed necrotic duodenal ulcer with only a slow ooze.  No intervention
   taken given tenuous appearance.  Patient received 5 U PRBCs.  Hct has
   been essentially stable since transfusion.  Tolerated full liquids, adv
   diet per GI.
   - f/u [**Hospital1 **] hcts
   - f/u H. Pylori antibody- still pending
   - a-line for BP monitoring, will need to d/c if called out to floor
   - IV PPI gtt, transition to PPI [**Hospital1 **] today
   - Active T&C, 4 units crossed
   - has 4 large bore PIVs currently
   - holding aspirin
   - f/u GI recs
   # Hypotension: Pt with baseline low BPs & started on new narcotic
   regimen yesterday. BP dipped this am with MAPS in 55-60 range,
   responsive to aggressive IVF.  Pt was mentating well, making urine &
   showed e/o good distal perfusion despite MAPs in 55-60 range.
   Differential includes sepsis vs hypovolemia vs cardiogenic.  Will f/u
   cultures to rule out sepsis In setting of recent low grade fevers,
   however, WBC not elevated and pt afebrile.  Pt may have been volume
   depleted as UOP responded to IV boluses.  CXR shows volume overload vs
   possible infiltrate. Hct essentially stable, BP improved today but pt
   c/o worsened cough this am, started on 2L NC overnight after receiving
   aggressive IVF. CXR findings most likely due to volume.
   - monitor in ICU this morning, consider transfer to floor later today
   as suspect BP close to baseline.
   - f/u blood, urine & sputum Cx
   - CIS & repeat CXR PA & Lateral if increased cough/sputum production
   .
   ## Chronic pancreatitis:  CT scan showed stable changes, no acute
   pancreatitis
   - starting Oxycontin [**Hospital1 **] with prn morphine for breakthrough
   - restarted Creon 2 tabs TID AC
   - consider outpt chronic pain clinic referral
   .
   ## Psych: continue home regimen of thioridazine (4pm), fluoxetine,
   trazodone
   .
   ## FEN: full liquid as tolerated, adv per GI
   - IVF boluses prn
   ICU Care
   Nutrition: full liquids as tolerated, adv per GI
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2186-3-24**] 08:07 AM
   Arterial Line - [**2186-3-24**] 09:07 PM
   16 Gauge - [**2186-3-25**] 12:13 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  PPI gtt, transition to PPI [**Hospital1 **] today
   Code status: Full code
   Disposition: possibly out to floor later today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-3-24**] 08:07 AM
   Arterial Line - [**2186-3-24**] 09:07 PM
   16 Gauge - [**2186-3-25**] 12:13 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:Transfer to floor